US08110687B2
tert-Butyl [3-tert-butyl-5-(pyrrolidin-1-ylmethyl)phenyl]carbamate (55 mg, 0.00016 mol) was allowed to stir in 1M Hydrochloric acid in Et2O (10 mL) at rt for 5 h. The reaction mixture was concentrated to give 3-tert-butyl-5-(pyrrolidin-1-ylmethyl)aniline (100%) which was used without purification. LCMS ES+233.

reactant | tert-Butyl [3-tert-butyl-5-(pyrrolidin-1-ylmethyl)phenyl]carbamate | 0.00016 mol, 55 mg | C(C)(C)(C)C=1C=C(C=C(C1)CN1CCCC1)NC(OC(C)(C)C)=O | C20H32N2O2
solvent | Hydrochloric acid | 1M | Cl | ClH
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | 3-tert-butyl-5-(pyrrolidin-1-ylmethyl)aniline | 100% | C(C)(C)(C)C=1C=C(N)C=C(C1)CN1CCCC1 | C15H24N2
